US08017809B2
Bis(4,4′-(3-chloro-4-methylphenyl-2-piperidylmethyloxyboryl)benzyl) ether
The entitled compound (88 mg) was obtained by allowing 52 mg of 2-hydroxymethylpiperidine to act on 99 mg of bis(4,4′-(3-chloro-4-methylphenyl-hydroxyboryl)benzyl) ether in 1 mL of ethanol.

reactant | 2-hydroxymethylpiperidine | 52 mg | OCC1NCCCC1 | C6H13NO
reactant | bis(4,4′-(3-chloro-4-methylphenyl-hydroxyboryl)benzyl) ether | 99 mg | ClC=1C=C(C=CC1C)B(O)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(O)C1=CC(=C(C=C1)C)Cl | C28H26B2Cl2O3
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | Bis(4,4′-(3-chloro-4-methylphenyl-2-piperidylmethyloxyboryl)benzyl) ether | ClC=1C=C(C=CC1C)B(OCC1NCCCC1)C(C1=CC=CC=C1)OC(C1=CC=CC=C1)B(OCC1NCCCC1)C1=CC(=C(C=C1)C)Cl | C40H48B2Cl2N2O3
